US04297358
2 g of sodium ethylate are added to a solution of 6.2 g of 1-chloro-6-methoxy-4,7-phenanthroline-3-carboxylic acid methyl ester in 100 ml of anhydrous N,N-dimethylformamide and the mixture is heated, whilst stirring and with the exclusion of water, for 10 hours at 100°. The solution is then evaporated to dryness in vacuo, the residue is divided between three times 200 ml of chloroform and 200 ml of water, the organic phases are dried over sodium sulphate and evaporated to dryness in vacuo. By fractionated crystallisation from ethanol, the 1-ethoxy-6-methoxy-4,7-phenanthroline-3-carboxylic acid methyl ester having a melting point of 188°-190° is obtained from the residue.

reactant | sodium ethylate | 2 g | CC[O-].[Na+]
reactant | 1-chloro-6-methoxy-4,7-phenanthroline-3-carboxylic acid methyl ester | 6.2 g | COC(=O)C=1C=C(C2=C3C=CC=NC3=C(C=C2N1)OC)Cl | C15H11ClN2O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-ethoxy-6-methoxy-4,7-phenanthroline-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C2=C3C=CC=NC3=C(C=C2N1)OC)OCC | C17H16N2O4
